US06323227B1
B. (E)-3-(3-Aminopropenyl)-4-(2-methoxy-ethoxymethoxy)benzonitrile
(E)-3-[3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)propenyl]-4-(2-methoxy-ethoxymethoxy)benzonitrile (3.1 g, 8.0 mmol) and NH2NH2 hydrate (0.96 mL, 20 mmol) in ethanol (100 mL) is refluxed for 1.5 hours. The mixture is concentrated, treated with aqueous NaOH, and extracted with CH2Cl2 (3×). The CH2Cl2 layer is dried and concentrated to obtain the product as a clear oil (1.9 g, 7.2 mmol). 1H NMR (CDCl3, 300 MHz) δ7.70 (d, 1H), 7.47 (dd, 1H), 7.22 (d, 1H), 6.75 (d, 1H), 6.34 (m, 1H), 5.35 (s, 2H), 3.80 (t, 2H), 3.50 (m, 4H), 3.27 (s, 3H).

reactant | (E)-3-[3-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)propenyl]-4-(2-methoxy-ethoxymethoxy)benzonitrile | 8.0 mmol, 3.1 g | O=C1N(C(C2=CC=CC=C12)=O)C/C=C/C=1C=C(C#N)C=CC1OCOCCOC | C22H20N2O5
reactant | NH2NH2 hydrate | 20 mmol, 0.96 mL | NN.O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (E)-3-(3-Aminopropenyl)-4-(2-methoxy-ethoxymethoxy)benzonitrile | 7.2 mmol, 1.9 g | NC/C=C/C=1C=C(C#N)C=CC1OCOCCOC | C14H18N2O3
